US04814382
Preparation of 2-Hydroxyethyl 1-Butylcarbamate
274.8 grams of ethylene carbonate (3.12 moles) were placed in a round bottom flask equipped with stirrer, thermometer, addition funnel and reflux condenser. 228.2 grams (3.12 mole) of butylamine were charged to the addition funnel and added to the flask at a rate sufficient to maintain the flask contents at 50°-80° C. The resultant reaction product was allowed to stand overnight. Thereafter, stripping of the reaction product in a rotary evaporator gave 449.9 g of crude product. A portion of the crude product was distilled at a pressure of 2 mm Hg, and a temperature of from 124° C. to 126° C. to purify same. The HLB value of 2-hydroxyethyl 1 butyl carbamate calculated as previously described is 12.9.

reactant | ethylene carbonate | 3.12 moles, 274.8 grams | C1(OCCO1)=O | C3H4O3
reactant | butylamine | 3.12 mole, 228.2 grams | C(CCC)N | C4H11N
product | 2-Hydroxyethyl 1-Butylcarbamate | 449.9 g | C(CCC)NC(OCCO)=O | C7H15NO3
